US06075036
4-Acetyl-1-ethyl-6-hydroxy-2-(4-hydroxyphenyl)pyrrolo[2,1,5-cd]indolizine
A solution of 4-acetyl-1-ethyl-6-methoxy-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine (0.2 g, 0.58 mmol) in 5 ml of dry dichloromethane was cooled to -65° C. and stirred in a nitrogen atmosphere, while 1.61 ml of a 1M boron tribromide solution in dichloromethane was added. The cooling source was removed and the mixture was stirred for seventy-two hours at room temperature. The mixture was neutralized with a saturated sodium hydrogen carbonate solution. The precipitate was isolated and dried to afford 177 mg (95%) of the title compound. M.p. 274-75° C. 1H-NMR (DMSO-d6, 200 MHz) δ: 1.37 (t, 3H), 2.58 (s, 3H), 3.08 (q, 2H), 7.00 (d, 2H), 7.55 (d, 1H), 7.66 (d, 2H), 7.71 (d, 1H), 8.04 (s, 1H), 9.81 (s, 1H), 10.50 (s, 1H). (Compound 8).

reactant | 4-acetyl-1-ethyl-6-methoxy-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine | 0.58 mmol, 0.2 g | C(C)(=O)C=1C=C2C(=C(C3=CC(=CC1N23)OC)CC)C2=CC=C(C=C2)OC | C22H21NO3
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-Acetyl-1-ethyl-6-hydroxy-2-(4-hydroxyphenyl)pyrrolo[2,1,5-cd]indolizine | 177 mg, 95% | C(C)(=O)C=1C=C2C(=C(C3=CC(=CC1N23)O)CC)C2=CC=C(C=C2)O | C20H17NO3
